US06943159B1
2-Ethyl-2-methyl-3,4-dihydro-1,3-benzoxazine-4-one
2-Hydroxybenzamide was transformed by Method G (using 2-butanone). M.p. 76-78° C.

reactant | 2-Hydroxybenzamide | OC1=C(C(=O)N)C=CC=C1 | C7H7NO2
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2-Ethyl-2-methyl-3,4-dihydro-1,3-benzoxazine-4-one | C(C)C1(OC2=C(C(N1)=O)C=CC=C2)C | C11H13NO2
